US05110983
Preparation of 2-(4-methylphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane
334 g (1 mol) of 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane were dissolved in 1.5 dm3 of dimethylformamide, 276 g of potassium carbonate and 170 g (1.01 mol) of m-dinitrobenzene were added, and the mixture was refluxed for 24 hours. The dimethylformamide was subsequently removed by distillation, and the residue was recrystallized from methanol.

reactant | 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane | 1 mol, 334 g | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C | C16H12F6O
reactant | potassium carbonate | 276 g | C([O-])([O-])=O.[K+].[K+]
reactant | m-dinitrobenzene | 1.01 mol, 170 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
solvent | dimethylformamide | 1.5 dm3 | CN(C=O)C | C3H7NO
product | 2-(4-methylphenyl)-2-[4-(3-nitrophenoxy)phenyl]hexafluoropropane | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-] | C22H15F6NO3
